US04029671
N-[4-Cyano-1-methyl-3-(1-methyl-5-nitroimidazol-2-yl)pyrazol-5-yl]-N'-hydroxyoxamide
Separate solutions were prepared of 0.94 g. of hydroxylamine hydrochloride in 10 ml. of methanol, and 0.728 g. of potassium hydroxide in 5 ml. of methanol at the boiling point of methanol. Both solutions were then cooled to about 30°-40° C., and the potassium hydroxide solution was added with shaking to the hydroxylamine hydrochloride solution. After the addition, the flask containing the mixture was flushed with nitrogen so that the mixture was maintained in a nitrogen atmosphere while being cooled in an ice bath for about 5 minutes to insure complete precipitation of the potassium chloride. The potassium chloride was filtered off and the filtrate diluted with about 50 ml. of methanol. To this methanolic solution, there was then added 2.3 g. (0.0067 mole) of N-[4-cyano-1-methyl-3-(1-methyl-5-nitroimidazol-2-yl)pyrazol-5-yl]oxamic acid, ethyl ester, and the mixture was stirred for about 3 hours at ambient room temperature. A precipitate formed which was filtered off. The solid so collected was refluxed in methanol and the solid which did not dissolve was collected on a filter. The solid weighed about 0.3 g. and had a melting point of about 179°-180° C. The solid was identified by NMR spectrum and elemental analyses as N-[4-cyano-1-methyl-3-(1-methyl-5-nitroimidazol-2-yl)pyrazol-5-yl]-N'-hydroxyoxamide.

reactant | hydroxylamine hydrochloride | Cl.NO
reactant | potassium hydroxide | [OH-].[K+]
reactant | N-[4-cyano-1-methyl-3-(1-methyl-5-nitroimidazol-2-yl)pyrazol-5-yl]oxamic acid, ethyl ester | 0.0067 mole | C(#N)C=1C(=NN(C1NC(C(=O)OCC)=O)C)C=1N(C(=CN1)[N+](=O)[O-])C | C13H13N7O5
solvent | methanol | CO | CH4O
product | N-[4-Cyano-1-methyl-3-(1-methyl-5-nitroimidazol-2-yl)pyrazol-5-yl]-N'-hydroxyoxamide | C(#N)C=1C(=NN(C1NC(=O)C(=O)NO)C)C=1N(C(=CN1)[N+](=O)[O-])C | C11H10N8O5
